US06531476B1
1.7 g (3.66 mmol) of 4-(3′,4′,5′-trimethoxybenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine, prepared according to the protocol described in step 8.1 of Example 8, are dissolved in 34 ml of THF and cooled in an ice bath. 1.7 g (1 equivalent) of Lawesson's reagent are added portionwise thereto. The solution is stirred at 0° C. for 30 minutes and then at room temperature overnight. The solvent is then removed under vacuum and the residue is rapidly purified on a column of silica gel (eluents: CH2Cl2 and then 1% MeOH in CH2Cl2) to give 1.1 g of 4-(3′,4′,5′-trimethoxythiobenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine in the form of a viscous yellow product. Yield: 62.4%.

reactant | 4-(3′,4′,5′-trimethoxybenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine | 3.66 mmol, 1.7 g | COC=1C=C(C(=O)N2CC(NCC2)COC(=O)N(CC)CC)C=C(C1OC)OC | C20H31N3O6
reactant | Lawesson's reagent | 1.7 g, 1 equivalent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 34 ml | C1CCOC1 | C4H8O
product | 4-(3′,4′,5′-trimethoxythiobenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine | 1.1 g, Yield: 62.4% | COC=1C=C(C(=S)N2CC(NCC2)COC(=O)N(CC)CC)C=C(C1OC)OC | C20H31N3O5S
